US05034544
Desoxyveratroin
A warm solution of 3,4-dimethoxyphenylacetic acid (10 g) in veratrole (15 ml) was added to 200 g of polyphosphoric acid (PPA). After 24 hrs. at room temperature the acid mixture was added to cold water (800 ml) and the product was collected and recrystallized from aqueous ethanol. The recrystallized intermediate (9.5 g, 60% yield) had a melting point of 104°-105°.

reactant | 3,4-dimethoxyphenylacetic acid | 10 g | COC=1C=C(C=CC1OC)CC(=O)O | C10H12O4
reactant | water | 800 ml | O | H2O
reactant | veratrole | 15 ml | C=1(C(OC)=CC=CC1)OC | C8H10O2
product | Desoxyveratroin | 9.5 g, 60% yield | COC1=C(C=C(C=C1)CC(=O)C2=CC(=C(C=C2)OC)OC)OC | C18H20O5
